US05246915
A mixture of 11.4 g of 1-(2,2-dimethyl-3-oxo-indan-1-yl)-5-imidazolecarboxylic acid methyl ester, 43 g of sulfur tetrafluoride and 160 g of hydrogen fluoride is heated for 24 hours to +50° C. in an acid-resistant autoclave. The pressure is about 7 bars. The unreacted hydrogen fluoride is removed and the residue is taken up with methylene chloride. The organic phase is neutralized with sodium bicarbonate, washed with water, dried with sodium sulfate and concentrated to dryness. Chromatography of the residue at a silica gel column with a diethyl ether/hexane mixture (3:1 by volume) affords 8.4 g of 1-(2,2-dimethyl-3,3-difluoro-indan-1-yl)-5-imidazolecarboxylic acid methyl ester, mp. 96°-97° C.

reactant | 1-(2,2-dimethyl-3-oxo-indan-1-yl)-5-imidazolecarboxylic acid methyl ester | 11.4 g | COC(=O)C1=CN=CN1C1C(C(C2=CC=CC=C12)=O)(C)C | C16H16N2O3
reactant | sulfur tetrafluoride | 43 g | S(F)(F)(F)F | F4S
reactant | hydrogen fluoride | 160 g | F | FH
product | 1-(2,2-dimethyl-3,3-difluoro-indan-1-yl)-5-imidazolecarboxylic acid methyl ester | 8.4 g | COC(=O)C1=CN=CN1C1C(C(C2=CC=CC=C12)(F)F)(C)C | C16H16F2N2O2
